US07314885B2
4-[(2,3-Difluoro-benzylidene)-amino]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester:
To a solution of 4-amino-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.1 g, 9.04 mmol) in anhydrous benzene (100 mL) was added 2,3-difluoro-benzaldehyde (1.29 g, 9.08 mmol) and catalytic amount of TsOH. The reaction mixture was heated under reflux in the presence of Dean-Stark trap for 24 hours. The solvent was then removed by evaporation and the residue was dried on the high vacuum pump for 16 hours for the next step use (2.9 g crude product). 1H NMR (500 MHz, DMSO-d6) δ8.99 (s, 1H), 7.85 (t, 1H), 7.75 (s, 1H), 7.58 (m, 2H), 7.32 (m, 1H), 4.32 (q, 2H), 3.90 (s, 3H), 2.51 (DMSO), 1.35 (t, 3H) ppm.

reactant | 4-amino-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester | 9.04 mmol, 2.1 g | C(C)OC(=O)C=1N(C=C(C1)N)S(=O)(=O)C | C8H12N2O4S
reactant | 2,3-difluoro-benzaldehyde | 9.08 mmol, 1.29 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 4-[(2,3-Difluoro-benzylidene)-amino]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1)N=CC1=C(C(=CC=C1)F)F)S(=O)(=O)C | C15H14F2N2O4S
